US07345075B2
b) 4-Bromo-6-methoxy-1-(4-methylphenyl)-2-phenyl-1H-benzimidazole
2.5 g of 4-bromo-6-methoxy-2-phenyl-1H-benzimidazole and 2.24 g of 4-(methylbenzene)boronic acid were stirred with 1.5 g of anhydrous copper(II) acetate and about 3 g of molecular sieve in 35 ml of pyridine for 7 hours at 100° C. After dichloromethane and Celite were added, it was concentrated by evaporation and chromatographed on silica gel with a hexane/ethyl acetate mixture.

reactant | 4-bromo-6-methoxy-2-phenyl-1H-benzimidazole | 2.5 g | BrC1=CC(=CC=2NC(=NC21)C2=CC=CC=C2)OC | C14H11BrN2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper(II) acetate | 1.5 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-Bromo-6-methoxy-1-(4-methylphenyl)-2-phenyl-1H-benzimidazole | BrC1=CC(=CC=2N(C(=NC21)C2=CC=CC=C2)C2=CC=C(C=C2)C)OC | C21H17BrN2O
